US05101048
Preparation of 4-acetylphenyl 5-thio-β-D-xylopyranoside (Example 24)
If the procedure described in Preparation LXXXIV is followed starting from 0.9 g (2.2.10-3 mol) of 4-acetylphenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside and 0.8 ml of a solution of sodium methylate in methanol (8% w/v of Na), reacted in 50 ml of methanol for 1 h, 0.55 g (yield: 88%) of the expected product is obtained after lyophilization.

reactant | 4-acetylphenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | 0.9 g | C(C)(=O)O[C@H]1[C@H](OC2=CC=C(C=C2)C(C)=O)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C19H22O8S
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 4-acetylphenyl 5-thio-β-D-xylopyranoside | 0.55 g, yield: 88% | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)CS1)C1=CC=C(C=C1)C(C)=O | C13H16O5S
